US04395410
N,N-Dimethyl-N-(n-nonyl)-4-phenylbutylammonium bromide
Seven grams of N-(n-nonyl)-N-methyl-4-phenylbutylammonium oxalate was suspended in diethyl ether and reacted with 5 N sodium hydroxide solution. The organic layer was separated and the solvent was evaporated therefrom to provide 5.3 g. of N-(n-nonyl)-N-methyl-4-phenylbutylamine. The latter compound was dissolved in 150 ml. of diethyl ether and the solution was stirred at 25° C. in a flask equipped with a drying tube packed with calcium sulfate. The ethereal solution was saturated with methyl bromide gas, and the mixture was stored at room temperature for forty-eight hours. The solid precipitate which had formed was collected by filtration and was recrystallized from 50 ml. of ethyl acetate and 80 ml. of cyclohexane. The crystalline product was collected by filtration and dried in a desiccator to provide 2.27 g. of N,N-dimethyl-N-(n-nonyl)-B 4-phenylbutylammonium bromide. M.P. 59°-61° C.

reactant | N-(n-nonyl)-N-methyl-4-phenylbutylammonium oxalate | Seven grams | C(C(=O)[O-])(=O)[O-].C(CCCCCCCC)[NH+](C)CCCCC1=CC=CC=C1.C(CCCCCCCC)[NH+](C)CCCCC1=CC=CC=C1
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | N-(n-nonyl)-N-methyl-4-phenylbutylamine | C(CCCCCCCC)N(C)CCCCC1=CC=CC=C1 | C20H35N
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | methyl bromide | CBr | CH3Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-Dimethyl-N-(n-nonyl)-4-phenylbutylammonium bromide | [Br-].C[N+](CCCCCCCCC)(C)CCCCC1=CC=CC=C1 | InChI=1S/C21H38N.BrH/c1-4-5-6-7-8-9-14-19-22(2,3)20-15-13-18-21-16-11-10-12-17-21;/h10-12,16-17H,4-9,13-15,18-20H2,1-3H3;1H/q+1;/p-1
